### PR TITLE
feat: prove left continuity of the predictable step processes

### LINKED ISSUE #455: Doob Meyer Decompostion: left continuity of processes that approximate the predictable part
This is the sorry in line 1074 and 1082 in #445.

### PR DESCRIPTION
**Pull request by FrankieNC**
Proves the two `sorry`s in `DoobMeyer.lean` for left continuity of the predictable
step processes: `predictableSeqStep_leftContinuous` and
`predictableConvexStep_leftContinuous`. Both follow from a small new lemma,
`continuousWithinAt_Iio_indicator_Ioc`, that the indicator of an `Ioc a b` is left
continuous; the step processes are finite sums / convex combinations of such indicators.

## Statement change: added `[OrderTopology ι]`

Both lemmas lacked any link between the order and the topology on `ι`, but their
conclusion pairs `Iio t` with continuity — without `OrderTopology` an `Ioc`-indicator
need not be left continuous, so I don't think they hold as stated.

Closes #455

### CODE REVIEW

**Comment by FrankieNC** [comment]
awaiting-review

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 1]
```diff
@@ -1064,21 +1064,59 @@ end PredictablePartLimMono
 
 section PredictableConvexStepPredictable
 
+/-- The indicator of a half-open interval `Ioc a b` with constant value `c` is left-continuous:
+when approached from the left it is eventually constant, so it is continuous within `Iio t` at `t`
+for every `t`. -/
+lemma continuousWithinAt_Iio_indicator_Ioc {α M : Type*} [LinearOrder α] [TopologicalSpace α]
+    [OrderTopology α] [Zero M] [TopologicalSpace M] (a b : α) (c : M) (t : α) :
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    [ClosedIicTopology α] [Zero M] [TopologicalSpace M] (a b : α) (c : M) (t : α) :
```

Also use `ClosedIicTopology` for the other two theorems.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 2]
```diff
@@ -1064,21 +1064,59 @@ end PredictablePartLimMono
...
+    ContinuousWithinAt ((Set.Ioc a b).indicator (fun _ ↦ c)) (Set.Iio t) t := by
+  refine (continuousWithinAt_const
+    (b := (Set.Ioc a b).indicator (fun _ ↦ c) t)).congr_of_eventuallyEq ?_ rfl
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  refine continuousWithinAt_const.congr_of_eventuallyEq ?_ rfl
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 3]
```diff
@@ -1064,21 +1064,59 @@ end PredictablePartLimMono
...
+  rcases le_or_gt t a with hta | hat
+  · refine eventually_nhdsWithin_of_forall fun x hx ↦ ?_
+    rw [Set.indicator_of_notMem fun h ↦ (not_lt.2 ((Set.mem_Iio.1 hx).le.trans hta)) h.1,
+      Set.indicator_of_notMem fun h ↦ (not_lt.2 hta) h.1]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  · filter_upwards [self_mem_nhdsWithin] with x hx
    simp_all [hx.le.trans hta]
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 4]
```diff
@@ -1064,21 +1064,59 @@ end PredictablePartLimMono
...
+  · rcases le_or_gt t b with htb | hbt
+    · filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds (Ioi_mem_nhds hat)]
+        with x hx_lt hx_gt
+      rw [Set.indicator_of_mem
+          (Set.mem_Ioc.2 ⟨Set.mem_Ioi.1 hx_gt, (Set.mem_Iio.1 hx_lt).le.trans htb⟩),
+        Set.indicator_of_mem (Set.mem_Ioc.2 ⟨hat, htb⟩)]
+    · filter_upwards [mem_nhdsWithin_of_mem_nhds (Ioi_mem_nhds hbt)] with x hx_gt
+      rw [Set.indicator_of_notMem fun h ↦ (not_le.2 (Set.mem_Ioi.1 hx_gt)) h.2,
+        Set.indicator_of_notMem fun h ↦ (not_le.2 hbt) h.2]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    · filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds (Ioi_mem_nhds hat)]
        with x hx_lt hx_gt
      simp_all [hx_lt.le.trans htb]
    · filter_upwards [mem_nhdsWithin_of_mem_nhds (Ioi_mem_nhds hbt)] with x hx_gt
      simp_all
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 5]
```diff
@@ -1064,21 +1064,59 @@ end PredictablePartLimMono
...
     {𝓕 : Filtration ι mΩ} (n : ℕ) (ω : Ω) (t : ι) :
     ContinuousWithinAt (fun s ↦ predictableSeqStep P S 𝓕 n s ω) (Set.Iio t) t := by
-  sorry
+  have hrw : (fun s ↦ predictableSeqStep P S 𝓕 n s ω)
+      = fun s ↦ ∑ u : mesh ι n, (meshPredIoc n u).indicator
+          (fun _ : ι ↦ predictablePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P u ω) s := by
+    funext s
+    simp only [predictableSeqStep, Finset.sum_apply]
+    refine Finset.sum_congr rfl fun u _ ↦ ?_
+    by_cases hs : s ∈ meshPredIoc n u <;> simp [hs]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]: I think this suggest that we need a lemma like this: suppose we have a function `f : Ω → ℝ`, `s : Set ι`, then for all `i : ι`, `ω : Ω`, `s.indicator (fun x ↦ f) i ω = s.indicator (fun x ↦ f ω) i`. This should be a corollary of [Set.indicator_comp_of_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Notation/Indicator.html#Set.indicator_comp_of_zero)

**Review by CoolRmal — COMMENTED** [review]
I use Lean as a tool for experimenting what hypotheses we need, and sometimes I am not able to include all arguments needed at the beginning. If you think some assumptions are necessary, feel free to include them.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 5 above)
Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Something like this? (Perhaps with a better name).

```
lemma Set.indicator_eval {ι Ω M : Type*} [Zero M] (s : Set ι) (f : ι → Ω → M) (i : ι) (ω : Ω) :
    s.indicator f i ω = s.indicator (fun j ↦ f j ω) i := by
  by_cases h : i ∈ s <;> simp [h]
```

Comment (CoolRmal) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: I think this is good enough. Maybe you can open a PR for it.

Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Great thanks! In the latest commit I use `Set.indicator_eval` in the proof.

Do you mean to PR `Set.indicator_eval` to Mathlib?

Comment (CoolRmal) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Yes

Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Will do, thanks!

**Review by RemyDegenne — APPROVED** [review]
Thanks! Looks good to me!
